US04410520
A solution of 3-(S)-t-butyloxycarbonylamino-1-t-butyloxycarbonylmethyl-2,3,4,5-tetrahydro-1H-[1]benzazepin-2,5-dione (8.0 g) in ethanol (500 ml) containing platinum oxide (800 mg) was hydrogenated at atmospheric pressure and at room temperature for two hours. The catalyst was filtered off and the filtrate evaporated to give 3-(S)-t-butyloxycarbonylamino-1-t-butyloxycarbonylmethyl-5-hydroxy-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one, [α]D =-173° (c=1.8 in DMF).

reactant | 3-(S)-t-butyloxycarbonylamino-1-t-butyloxycarbonylmethyl-2,3,4,5-tetrahydro-1H-[1]benzazepin-2,5-dione | 8.0 g | C(C)(C)(C)OC(=O)N[C@@H]1C(N(C2=C(C(C1)=O)C=CC=C2)CC(=O)OC(C)(C)C)=O | C21H28N2O6
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | platinum oxide | 800 mg | [Pt]=O
product | 3-(S)-t-butyloxycarbonylamino-1-t-butyloxycarbonylmethyl-5-hydroxy-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one | C(C)(C)(C)OC(=O)N[C@@H]1C(N(C2=C(C(C1)O)C=CC=C2)CC(=O)OC(C)(C)C)=O | C21H30N2O6
